US07737295B2
1-[5′-Isopropyl-2′-methoxy-4-(trifluoromethyl)biphenyl-2-yl]methanamine (94.1 mg, 0.291 mmol) was dissolved in THF (4 mL). 3,5-Bis(trifluoromethyl)benzyl bromide (320 μL, 1.75 mmol) was added followed by potassium bis(trimethylsilyl)amide (2.33 mL of a 0.5 M solution in toluene, 1.164 mmol). The reaction was stirred at room temperature for 72 hours and then poured into H2O (30 mL). The mixture was extracted with EtOAc (75 mL). The organic layer was washed with brine (25 mL), dried over Na2SO4, filtered, and concentrated. Purification by flash chromatography with 0 to 15% EtOAc/hexanes, then a second column with 50% CH2Cl2, then a third column with 25% EtOAc/hexanes afforded [3,5-bis(trifluoromethyl)benzyl]{[5′-isopropyl-2′-methoxy-4-(trifluoromethyl)biphenyl-2-yl]methyl}amine as a light yellow oil. Rf=0.18 (40% CH2Cl2/hexanes). LCMS=550.3 (M+1)+. 1H NMR (CDCl3, 600 MHz) δ 7.75 (s, 1H), 7.74 (s, 1H), 7.70 (s, 2H), 7.58 (d, J=7.9 Hz, 1H), 7.34 (d, J=7.8 Hz, 1H), 7.24 (dd, J=8.5, 2.2 Hz, 1H), 6.99 (d, J=2.2 Hz, 1H), 6.90 (d, J=8.5 Hz, 1H), 3.68-3.76 (m, 4H), 3.68 (s, 3H), 2.88 (m, 1H), 1.22 (d, J=6.4 Hz, 6H).

reactant | 1-[5′-Isopropyl-2′-methoxy-4-(trifluoromethyl)biphenyl-2-yl]methanamine | 0.291 mmol, 94.1 mg | C(C)(C)C=1C=CC(=C(C1)C1=C(C=C(C=C1)C(F)(F)F)CN)OC | C18H20F3NO
reactant | 3,5-Bis(trifluoromethyl)benzyl bromide | 1.75 mmol, 320 μL | FC(C=1C=C(CBr)C=C(C1)C(F)(F)F)(F)F | C9H5BrF6
reactant | potassium bis(trimethylsilyl)amide | C[Si](C)(C)[N-][Si](C)(C)C.[K+]
reactant | H2O | 30 mL | O | H2O
solvent | THF | 4 mL | C1CCOC1 | C4H8O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | [3,5-bis(trifluoromethyl)benzyl]{[5′-isopropyl-2′-methoxy-4-(trifluoromethyl)biphenyl-2-yl]methyl}amine | FC(C=1C=C(CNCC2=C(C=CC(=C2)C(F)(F)F)C2=C(C=CC(=C2)C(C)C)OC)C=C(C1)C(F)(F)F)(F)F | C27H24F9NO
